US07662995B2
Preparation of 4-bromo-3-fluorophenylcyclopropanecarboxylic acid
A suspension of 4-bromo-3-fluorophenylcyclopropanenitrile (21 mmoles) in methanol (10 ml) is added with a 35% NaOH aqueous solution (40 ml) and a 35% H2O2 aqueous solution (3 ml), then is refluxed for 4 hours, cooled at room temperature and added with 2N HCl (250 ml). The precipitated solid is collected by filtration and redissolved in a 5% NaHCO3 aqueous solution (300 ml). The insoluble fraction is filtered off and the clear filtrate is acidified to pH=2 with 2N HCl. The product precipitates as a white solid, which is recovered by filtration and dried under vacuum.

reactant | 4-bromo-3-fluorophenylcyclopropanenitrile | 21 mmoles | BrC1=C(C=C(C=C1)C1(CC1)C#N)F | C10H7BrFN
reactant | NaOH | 40 ml | [OH-].[Na+]
reactant | H2O2 | 3 ml | OO | H2O2
reactant | HCl | 2N, 250 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-bromo-3-fluorophenylcyclopropanecarboxylic acid | BrC1=C(C=C(C=C1)C1(CC1)C(=O)O)F | C10H8BrFO2
